Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
left renal abscess
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
___ year old female with recent diagnosis of pyelonphritis and 
left renal abscess persenting with left flank pain, low grade 
temperature, flank and abdominal pain, myalgias. The patient 
reports the day prior to presentation, she developed left sided 
flank pain, myalgias, and a low grade fever of 100.5. She denies 
dysuria, increased urinary frequency, urinary urgency. She also 
notes epigastric pain and heartburn the day prior to 
presentation, which subsequently resolved.  
.  
The patient's current presentation is similar to when she was 
first diagnosed with renal abscess on ___ (CT A/P demonstrated 
a 2.1 x 2.2 cm left renal abscess at the superior pole). The 
patient was initially found to have a positive UA ___ and 
was treated with Bactrim, then switched to Cipro by her PCP 
___ and completed a 7 day course. She initially felt better, 
but then developed abdominal and flank pain with fevers and 
chills, and had a renal US and was found to have a right renal 
abscess. The source was unclear (UTI vs hematogenous). 
Unfortunately there were no cultures to narrow coverage. She was 
treated Cefepime with plan to treat for ___ weeks via PICC line. 
Repeat US on ___ showed decrease in size of abscess suggesting 
adequate treatment. Of note she missed her most recent 
appointment on ___, but plan at that time was to continue 
Cefepime through ___. She is currently followed by ID as an 
outpatient and reports she has been compliant with her Cefepime. 
Of note, the patient had blood cultures ___ which grew coag 
negative Staph.  
.  
In the ED, VS: T99.8 ___ R18 99%RA.  
Her PICC line was found to be erythematous but without drainage. 
The patient reports she experienced pain at the L ___ site last 
week, but had a ___ nurse visit and examine the site and was 
reassured the ___ site did not appear infected. She denies 
drainage at the site and reports her pain is improved from last 
week. She had a UA and labs sent, and blood culture was drawn 
off the ___. She was given Cefepime 1gm IV x1 in the ED and 
admitted for further management.  
.  
Currently, the patient denies flank or abdominal pain, 
fevers/chills, dysuria, or other complaints.  

 
Past Medical History:
depression

NKDA
 
Social History:
___
Family History:
noncontributory
father is a card___ 
 
Physical Exam:
VS: T97.2 BP 112/74 P75 R18 PO2 96%RA Wt 63.5kg Ht 5'6"  
Gen: Alert, interactive, well-appearing female in NAD  
HEENT: No cervical LAD, oropharynx clear, MMM  
Neck: supple  
CV: Regularly irregular with ectopy, nl S1, fixed split S2, no 
m/g/r  
Pulm: CTAB, no wheezes/rales/rhonchi  
Abd: Soft, nontender, nondistended, no HSM, +BS  
Ext: no c/c/pedal edema, ___ pulses 2+ bilaterally  
Neuro: CNII-XII intact, moving all extremities  

 
Pertinent Results:
___ 08:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-TR
___ 08:20PM URINE  ___ BACTERIA-MANY YEAST-NONE 
___ 04:30PM   GLUCOSE-81 UREA N-11 CREAT-0.7 SODIUM-138 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-27 ANION GAP-14
___ 04:30PM   WBC-2.9*# RBC-4.18* HGB-13.7 HCT-38.8 MCV-93 
MCH-32.8* MCHC-35.3* RDW-13.7
___ 04:30PM   NEUTS-56.3 ___ MONOS-7.8 EOS-3.8 
BASOS-1.0
___ 04:30PM   PLT COUNT-165

Renal U/S ___:  
Renal ultrasound comparison is made to a prior ultrasound dated 
___. The right kidney measures 10.5 cm. The left kidney 
measures 11.9 cm. In the left kidney in the upper pole, there is 
a hypoechoic lesion with irregular borders, this measures 1.5 x 
1.4 x 1.3 cm (previously 2.3 x 2.1 x 2.0 cm). There is no 
hydronephrosis. No stones are seen.  
Renal ___: Normal renal ultrasound with no discrete fluid 
collection visualized in the region of the left upper pole at 
site of known previous abcess. 
 
Brief Hospital Course:
Pt was admitted to the hospital for left flank pain, low grade 
temp in setting of known left renal abscess.  Pt had been 
followed by ID, she had been on Cefepime and had a PICC in left 
arm.  Pt's renal ultrasound showed that the renal abscess had 
resolved.  Concern on admission that the PICC may be infected vs 
DVT as patient reported recent pain at the site and was 
reportedly erythematous on admission.  U/s of L upper arm was 
negative for DVT.  Blood cx and cx of PICC tip sent, PICC line 
pulled.  u/a neg for infection. 

Lab work revealed pt to be leukopenic (2.9) w/ 5% atypicals.  
Infectious workup included CXR - neg, u/a - neg, HIV - neg, 
monospot - neg.  Pending labs for f/u include CMV, EBV, lyme and 
ehrlichea.  

Patient remained afebrile and stable throughout her hospital 
course.  Flank pain resolved after arriving on floor from ED and 
she remained asymptomatic while here.  Once antibiotics were 
discontinued, pt deemed safe to go home with close outpt f/u for 
pending labs and repeat CBC.  She has an appointment with ID for 
___ and a PCP appt for next week. 
 
Medications on Admission:
Cefepime 1gm Q12, started ___ planned to continue until 
___.  
Paxil CR 37.5mg daily  
 
Discharge Medications:
1. Paroxetine HCl 37.5 mg Tablet Sustained Release 24 hr Sig: 
One (1) Tablet Sustained Release 24 hr PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
resolved Left renal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for further evaluation of your 
left renal abscess.  The ultrasound of your left kidney showed 
that your abscess has resolved.  The infectious disease doctors 
saw ___ and ___ that your infection has resolved so that you no 
longer needed your antibiotics; therefore your PICC line was 
pulled.  The blood cultures and culture from your PICC are still 
pending; please have your PCP follow up on these results.  

Your lab work showed decreased white blood cells.  We started an 
infectious workup to determine the cause of this decrease.  It 
is most likely a viral etiology; all of the tests that have come 
back so far have been negative.  Please make sure that you 
follow up with your PCP on ___ for the rest of your 
results.  

You remained afebrile while in the hospital and reported no 
concerning symptoms.  Therefore we felt you were safe for 
discharge with PCP follow up. 

Please make sure to have your lab work repeated at your PCP 
follow up appointment in order to re-evaluate your white blood 
cell count.  
 
Followup Instructions:
___